* PEX produced on Wed Jul 22 05:29:04 PM CEST 2026 using /foss/tools/sak/sak-pex.sh with m=3 and s=1
* NGSPICE file created from NAND_3in.ext - technology: ihp-sg13g2

.subckt NAND_3in a b y c VP GND
X0 a_162_n565.t0 b.t0 a_48_n565.t0 GND.t0 sg13_lv_nmos ad=55.5f pd=0.74u as=55.5f ps=0.74u w=0.15u l=0.13u
X1 y.t2 a.t1 VP.t1 VP.t0 sg13_lv_pmos ad=0.1005p pd=1.34u as=55.5f ps=0.74u w=0.15u l=0.13u
X2 a_48_n565.t0 c.t0 GND.t3 GND.t2 sg13_lv_nmos ad=55.5f pd=0.74u as=0.1005p ps=1.34u w=0.15u l=0.13u
X3 y.t0 c.t1 VP.t3 VP.t0 sg13_lv_pmos ad=55.5f pd=0.74u as=0.1005p ps=1.34u w=0.15u l=0.13u
X4 y.t1 a.t0 a_162_n565.t0 GND.t1 sg13_lv_nmos ad=0.1005p pd=1.34u as=55.5f ps=0.74u w=0.15u l=0.13u
X5 VP.t1 b.t1 y.t0 VP.t0 sg13_lv_pmos ad=55.5f pd=0.74u as=55.5f ps=0.74u w=0.15u l=0.13u
R0 a.n0 a.t1 8.57008
R1 a.n0 a.t0 7.51402
R2 a a.n0 5.12428
R3 b.n0 b.t0 8.57008
R4 b.n0 b.t1 7.51402
R5 b b.n0 4.88228
R6 y.n1 y.t0 27.0955
R7 y.n0 y.t1 26.8673
R8 y.n0 y.t2 26.8051
R9 y y.n1 3.3459
R10 y.n1 y.n0 0.2117
R11 c.n0 c.t0 8.01682
R12 c.n0 c.t1 8.00307
R13 c c.n0 4.6391
R14 VP.n2 VP.t3 17.6656
R15 VP.n0 VP.t1 17.6456
R16 VP.n2 VP.n1 2.41907
R17 VP.n1 VP.n0 1.72746
R18 VP.n1 VP.t0 1.0005
R19 VP VP.n0 0.099484
R20 VP VP.n2 0.0673911
R21 GND.n2 GND.t1 232.31
R22 GND.t0 GND.n2 224.299
R23 GND.n4 GND.t2 144.433
R24 GND.t2 GND.n3 144.184
R25 GND.n3 GND.t0 56.0657
R26 GND.t1 GND.n0 48.3064
R27 GND.n1 GND.t3 17.5471
R28 GND.n5 GND.n2 8.5005
R29 GND.n4 GND.n1 4.30778
R30 GND.n6 GND.n5 4.23547
R31 GND GND.n0 1.55981
R32 GND.n5 GND.n3 0.250686
R33 GND.n6 GND.n1 0.0531361
R34 GND GND.n6 0.0485528
R35 GND.n5 GND.n0 0.00107995
R36 GND.n5 GND.n4 0.001
C0 b y 0.11383f
C1 VP a 0.12318f
C2 b a 0.34245f
C3 c y 0.05246f
C4 VP b 0.1167f
C5 c a 0.07043f
C6 c VP 0.11576f
C7 c b 0.37268f
C8 y a 0.14881f
C9 VP y 0.38276f
C10 a GND 0.53057f
C11 b GND 0.37072f
C12 y GND 0.67901f
C13 c GND 0.30253f
C14 VP GND 0.1713f
C15 a_48_n565.t0 GND 0.08062f
C16 a_162_n565.t0 GND 0.14159f
C17 VP.n0 GND 0.04458f
C18 VP.t0 GND 0.53303f
C19 VP.n1 GND 0.11019f
C20 VP.n2 GND 0.03172f
C21 c.t1 GND 0.17903f
C22 c.t0 GND 0.17021f
C23 c.n0 GND 0.2742f
C24 y.t2 GND 0.04927f
C25 y.t1 GND 0.04944f
C26 y.n0 GND 0.34418f
C27 y.t0 GND 0.05368f
C28 y.n1 GND 0.21186f
C29 b.t1 GND 0.20859f
C30 b.t0 GND 0.21672f
C31 b.n0 GND 0.33278f
C32 a.t1 GND 0.15051f
C33 a.t0 GND 0.13081f
C34 a.n0 GND 0.2275f
.ends

