* PEX produced on Fri Sep  4 12:06:08 AM CEST 2026 using /foss/tools/sak/sak-pex.sh with m=2 and s=1
* NGSPICE file created from 3bit_to_8_outs.ext - technology: ihp-sg13g2

.subckt x3bit_to_8_outs coarse_5 coarse_4 coarse_3 coarse_2 coarse_0 coarse_1 c2 c1
+ c0 coarse_7 coarse_6 VP gd
X0 a_2670_4691# c2_n gd gd sg13_lv_nmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X1 VP c1 NAND_3in_6.y VP sg13_lv_pmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X2 c2_n c2 gd gd sg13_lv_nmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X3 coarse_5 NAND_3in_3.y gd gd sg13_lv_nmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X4 a_2206_4691# c1_n a_1990_4691# gd sg13_lv_nmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X5 NAND_3in_6.y c0_n VP VP sg13_lv_pmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X6 coarse_7 NAND_3in_0.y VP VP sg13_lv_pmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X7 NAND_3in_6.y c2_n VP VP sg13_lv_pmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X8 coarse_0 NAND_3in_5.y VP VP sg13_lv_pmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X9 VP c1 NAND_3in_7.y VP sg13_lv_pmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X10 a_2886_4373# c1 a_2670_4373# gd sg13_lv_nmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X11 NAND_3in_6.y c0_n a_2886_4373# gd sg13_lv_nmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X12 c2_n c2 VP VP sg13_lv_pmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X13 coarse_5 NAND_3in_3.y VP VP sg13_lv_pmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X14 coarse_6 NAND_3in_1.y gd gd sg13_lv_nmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X15 coarse_0 NAND_3in_5.y gd gd sg13_lv_nmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X16 NAND_3in_4.y c0_n a_2206_3047# gd sg13_lv_nmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X17 a_2670_4373# c2_n gd gd sg13_lv_nmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X18 a_1990_3047# c2 gd gd sg13_lv_nmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X19 a_2206_4373# c1 a_1990_4373# gd sg13_lv_nmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X20 coarse_3 NAND_3in_7.y VP VP sg13_lv_pmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X21 NAND_3in_4.y c0_n VP VP sg13_lv_pmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X22 NAND_3in_4.y c2 VP VP sg13_lv_pmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X23 NAND_3in_0.y c0 a_2206_2729# gd sg13_lv_nmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X24 a_2886_3047# c1_n a_2670_3047# gd sg13_lv_nmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X25 a_1990_2729# c2 gd gd sg13_lv_nmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X26 coarse_6 NAND_3in_1.y VP VP sg13_lv_pmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X27 coarse_3 NAND_3in_7.y gd gd sg13_lv_nmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X28 NAND_3in_3.y c0 a_2886_3047# gd sg13_lv_nmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X29 c0_n c0 VP VP sg13_lv_pmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X30 coarse_1 NAND_3in_2.y VP VP sg13_lv_pmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X31 a_2670_3047# c2 gd gd sg13_lv_nmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X32 a_2206_3047# c1_n a_1990_3047# gd sg13_lv_nmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X33 coarse_1 NAND_3in_2.y gd gd sg13_lv_nmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X34 VP c1_n NAND_3in_3.y VP sg13_lv_pmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X35 c0_n c0 gd gd sg13_lv_nmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X36 NAND_3in_3.y c0 VP VP sg13_lv_pmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X37 a_2886_2729# c1 a_2670_2729# gd sg13_lv_nmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X38 NAND_3in_1.y c0_n a_2886_2729# gd sg13_lv_nmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X39 NAND_3in_0.y c0 VP VP sg13_lv_pmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X40 NAND_3in_5.y c0_n VP VP sg13_lv_pmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X41 NAND_3in_3.y c2 VP VP sg13_lv_pmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X42 NAND_3in_0.y c2 VP VP sg13_lv_pmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X43 c1_n c1 VP VP sg13_lv_pmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X44 coarse_2 NAND_3in_6.y VP VP sg13_lv_pmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X45 VP c1_n NAND_3in_4.y VP sg13_lv_pmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X46 a_2670_2729# c2 gd gd sg13_lv_nmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X47 NAND_3in_5.y c2_n VP VP sg13_lv_pmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X48 coarse_4 NAND_3in_4.y gd gd sg13_lv_nmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X49 a_2206_2729# c1 a_1990_2729# gd sg13_lv_nmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X50 NAND_3in_5.y c0_n a_2206_4691# gd sg13_lv_nmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X51 a_1990_4691# c2_n gd gd sg13_lv_nmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X52 coarse_2 NAND_3in_6.y gd gd sg13_lv_nmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X53 c1_n c1 gd gd sg13_lv_nmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X54 NAND_3in_7.y c0 VP VP sg13_lv_pmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X55 VP c1 NAND_3in_1.y VP sg13_lv_pmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X56 NAND_3in_1.y c0_n VP VP sg13_lv_pmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X57 VP c1_n NAND_3in_2.y VP sg13_lv_pmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X58 coarse_4 NAND_3in_4.y VP VP sg13_lv_pmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X59 coarse_7 NAND_3in_0.y gd gd sg13_lv_nmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X60 NAND_3in_2.y c0 VP VP sg13_lv_pmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X61 NAND_3in_7.y c2_n VP VP sg13_lv_pmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X62 NAND_3in_1.y c2 VP VP sg13_lv_pmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X63 NAND_3in_2.y c2_n VP VP sg13_lv_pmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X64 VP c1 NAND_3in_0.y VP sg13_lv_pmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X65 VP c1_n NAND_3in_5.y VP sg13_lv_pmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X66 a_2886_4691# c1_n a_2670_4691# gd sg13_lv_nmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X67 NAND_3in_2.y c0 a_2886_4691# gd sg13_lv_nmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X68 NAND_3in_7.y c0 a_2206_4373# gd sg13_lv_nmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X69 a_1990_4373# c2_n gd gd sg13_lv_nmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
C0 a_2670_4373# a_2886_4373# 0.02238f
C1 c0 c1 6.58794f
C2 NAND_3in_2.y a_2670_4691# 0.01087f
C3 c2_n VP 0.52032f
C4 coarse_1 NAND_3in_5.y 0.65208f
C5 coarse_3 coarse_0 0.04504f
C6 c0_n a_2206_4691# 0.01039f
C7 VP NAND_3in_0.y 0.48189f
C8 coarse_2 NAND_3in_7.y 0.65208f
C9 NAND_3in_6.y a_2886_4373# 0.06651f
C10 NAND_3in_4.y a_2670_3047# 0.01403f
C11 VP NAND_3in_2.y 0.5009f
C12 NAND_3in_1.y c2 0.52425f
C13 c2_n NAND_3in_7.y 2.06995f
C14 a_2670_3047# NAND_3in_3.y 0.01087f
C15 coarse_2 m2_3309_4034# 0.17579f
C16 c1_n c2 0.98377f
C17 c2_n NAND_3in_5.y 2.06966f
C18 c0 c2 0.45356f
C19 NAND_3in_5.y a_2670_4691# 0.01403f
C20 coarse_5 c2 0.01131f
C21 a_1990_4691# a_2206_4691# 0.02238f
C22 c0 c1_n 2.52554f
C23 NAND_3in_6.y c0_n 0.54004f
C24 a_1990_3047# a_2206_3047# 0.02238f
C25 VP NAND_3in_7.y 0.48557f
C26 NAND_3in_2.y NAND_3in_5.y 0.36477f
C27 NAND_3in_6.y NAND_3in_3.y 0.10377f
C28 VP NAND_3in_5.y 0.48265f
C29 m2_3309_3376# NAND_3in_3.y 0.2121f
C30 a_2886_2729# NAND_3in_1.y 0.06651f
C31 NAND_3in_1.y a_2670_2729# 0.01087f
C32 NAND_3in_4.y a_2206_3047# 0.07661f
C33 NAND_3in_6.y c1 0.59599f
C34 coarse_3 coarse_2 0.4315f
C35 a_2670_3047# a_2886_3047# 0.02238f
C36 a_2670_2729# c2 0.0131f
C37 a_2670_3047# c2 0.0131f
C38 coarse_4 VP 0.37928f
C39 NAND_3in_7.y NAND_3in_5.y 0.17759f
C40 NAND_3in_1.y coarse_6 0.41505f
C41 coarse_6 c2 0.01131f
C42 m2_3309_5020# m2_3581_5020# 0.01344f
C43 coarse_4 m2_3581_3376# 0.17552f
C44 coarse_7 coarse_6 0.4315f
C45 m2_3581_2390# coarse_7 0.17552f
C46 a_2206_2729# a_1990_2729# 0.02238f
C47 coarse_6 coarse_5 0.04313f
C48 coarse_3 VP 0.37928f
C49 c0_n c2_n 1.80627f
C50 NAND_3in_4.y c2_n 0.07444f
C51 a_2886_2729# a_2670_2729# 0.02238f
C52 coarse_0 m2_3581_5020# 0.17552f
C53 c0_n NAND_3in_0.y 0.45465f
C54 NAND_3in_4.y NAND_3in_0.y 0.17759f
C55 a_2886_4373# NAND_3in_7.y 0.01203f
C56 m2_3309_3376# coarse_5 0.17579f
C57 NAND_3in_1.y m2_3309_2390# 0.2121f
C58 c2_n c1 0.46692f
C59 a_1990_2729# c2 0.0131f
C60 a_2206_4373# a_1990_4373# 0.02238f
C61 coarse_3 NAND_3in_7.y 0.38233f
C62 c0_n VP 1.58606f
C63 NAND_3in_4.y VP 0.48555f
C64 c2_n a_1990_4691# 0.01315f
C65 NAND_3in_0.y c1 0.70372f
C66 VP NAND_3in_3.y 0.50587f
C67 a_2206_2729# NAND_3in_0.y 0.07661f
C68 VP c1 0.4594f
C69 NAND_3in_4.y m2_3581_3376# 0.17547f
C70 c0_n NAND_3in_7.y 0.45314f
C71 coarse_3 coarse_4 0.04163f
C72 NAND_3in_4.y NAND_3in_7.y 0.05233f
C73 c2_n c2 0.739f
C74 c0_n NAND_3in_5.y 0.48759f
C75 coarse_2 coarse_5 0.04472f
C76 NAND_3in_6.y a_2670_4373# 0.01087f
C77 c2_n c1_n 4.74896f
C78 NAND_3in_1.y NAND_3in_0.y 0.36477f
C79 c1 NAND_3in_7.y 0.70106f
C80 c2_n c0 1.04353f
C81 NAND_3in_0.y c2 2.07099f
C82 c2_n a_1990_4373# 0.01315f
C83 coarse_1 m2_3309_5020# 0.17579f
C84 NAND_3in_4.y coarse_4 0.38233f
C85 coarse_7 NAND_3in_0.y 0.38233f
C86 NAND_3in_1.y VP 0.5009f
C87 c0 NAND_3in_0.y 0.37871f
C88 VP c2 0.42889f
C89 coarse_6 m2_3309_2390# 0.17579f
C90 NAND_3in_2.y c1_n 0.59595f
C91 a_1990_4691# NAND_3in_5.y 0.02085f
C92 m2_3581_2390# m2_3309_2390# 0.01344f
C93 coarse_1 coarse_0 0.4315f
C94 VP c1_n 0.53525f
C95 c0 NAND_3in_2.y 0.54002f
C96 coarse_7 VP 0.37873f
C97 VP c0 1.5341f
C98 VP coarse_5 0.21382f
C99 a_2670_4691# a_2886_4691# 0.02238f
C100 a_2886_2729# NAND_3in_0.y 0.01203f
C101 NAND_3in_2.y a_2886_4691# 0.06651f
C102 NAND_3in_7.y c1_n 0.07709f
C103 NAND_3in_4.y a_1990_3047# 0.02085f
C104 a_2670_2729# NAND_3in_0.y 0.01403f
C105 c0 NAND_3in_7.y 0.41738f
C106 c2_n a_2670_4373# 0.01312f
C107 NAND_3in_7.y a_1990_4373# 0.02085f
C108 c1_n NAND_3in_5.y 0.70113f
C109 NAND_3in_2.y m2_3309_5020# 0.2121f
C110 c0 NAND_3in_5.y 0.45239f
C111 coarse_2 NAND_3in_6.y 0.41505f
C112 NAND_3in_4.y c0_n 0.41745f
C113 coarse_6 NAND_3in_0.y 0.65208f
C114 m2_3581_2390# NAND_3in_0.y 0.17547f
C115 NAND_3in_5.y m2_3581_5020# 0.17547f
C116 NAND_3in_6.y c2_n 0.52425f
C117 NAND_3in_4.y NAND_3in_3.y 0.36477f
C118 coarse_7 coarse_4 0.04504f
C119 VP coarse_6 0.21256f
C120 coarse_4 coarse_5 0.4315f
C121 coarse_0 VP 0.37873f
C122 c0_n c1 1.86958f
C123 NAND_3in_5.y a_2886_4691# 0.01203f
C124 coarse_2 coarse_1 0.04313f
C125 NAND_3in_7.y m2_3581_4034# 0.17547f
C126 NAND_3in_5.y a_2206_4691# 0.07661f
C127 NAND_3in_6.y NAND_3in_2.y 0.05633f
C128 coarse_1 c2_n 0.01131f
C129 NAND_3in_6.y VP 0.50587f
C130 a_2670_4373# NAND_3in_7.y 0.01403f
C131 NAND_3in_0.y a_1990_2729# 0.02085f
C132 a_1990_3047# c2 0.0131f
C133 m2_3309_4034# m2_3581_4034# 0.01344f
C134 coarse_0 NAND_3in_5.y 0.38233f
C135 NAND_3in_1.y c0_n 0.54004f
C136 NAND_3in_4.y a_2886_3047# 0.01203f
C137 coarse_1 NAND_3in_2.y 0.41505f
C138 coarse_2 c2_n 0.01131f
C139 c0_n c2 4.58879f
C140 NAND_3in_6.y NAND_3in_7.y 0.36477f
C141 m2_3309_3376# m2_3581_3376# 0.01344f
C142 coarse_1 VP 0.21256f
C143 NAND_3in_4.y c2 2.06986f
C144 a_2886_3047# NAND_3in_3.y 0.06651f
C145 NAND_3in_1.y NAND_3in_3.y 0.05633f
C146 NAND_3in_7.y a_2206_4373# 0.07661f
C147 c0_n c1_n 6.37934f
C148 c2 NAND_3in_3.y 0.52431f
C149 NAND_3in_4.y c1_n 0.70099f
C150 c2_n a_2670_4691# 0.01312f
C151 c0_n c0 2.31619f
C152 NAND_3in_4.y c0 0.45306f
C153 NAND_3in_4.y coarse_5 0.65208f
C154 c1_n NAND_3in_3.y 0.59597f
C155 NAND_3in_1.y c1 0.59595f
C156 m2_3309_4034# NAND_3in_6.y 0.2121f
C157 c2_n NAND_3in_0.y 0.02839f
C158 c0 NAND_3in_3.y 0.53998f
C159 c1 c2 4.24728f
C160 coarse_5 NAND_3in_3.y 0.41505f
C161 coarse_2 VP 0.21382f
C162 coarse_3 m2_3581_4034# 0.17552f
C163 c1 c1_n 0.90128f
C164 c2_n NAND_3in_2.y 0.52425f
C165 coarse_7 gd 1.70936f
C166 coarse_6 gd 0.59487f
C167 coarse_4 gd 0.61936f
C168 coarse_5 gd 0.50405f
C169 coarse_3 gd 0.61935f
C170 coarse_2 gd 1.56686f
C171 coarse_0 gd 0.68246f
C172 coarse_1 gd 0.59479f
C173 VP gd 6.89096f
C174 m2_3581_2390# gd 0.01174f ; **FLOATING
C175 m2_3581_3376# gd 0.01174f ; **FLOATING
C176 m2_3581_4034# gd 0.01174f ; **FLOATING
C177 m2_3581_5020# gd 0.01174f ; **FLOATING
C178 a_2886_2729# gd 0.08446f
C179 a_2670_2729# gd 0.10512f
C180 a_2206_2729# gd 2.11086f
C181 a_1990_2729# gd 0.10513f
C182 a_2886_3047# gd 0.08446f
C183 a_2670_3047# gd 0.10512f
C184 a_2206_3047# gd 0.08448f
C185 a_1990_3047# gd 0.10513f
C186 a_2886_4373# gd 0.08446f
C187 a_2670_4373# gd 0.10512f
C188 a_2206_4373# gd 0.08448f
C189 a_1990_4373# gd 0.10513f
C190 a_2886_4691# gd 0.08446f
C191 a_2670_4691# gd 0.84585f
C192 a_2206_4691# gd 0.73238f
C193 a_1990_4691# gd 0.75302f
.ends

